US05972965
A solution of 1,2,3,4-tetrahydro-5-methoxy-1-naphthalenamine (0.34 g), (4,5-diphenyloxazol-2-yl)methyl bromide (0.50 g) and potassium carbonate (0.60 g) in DMF (7 ml) was stirred for 5 hours at room temperature. The mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine. The dried solvent was evaporated in vacuo. The residue was purified by chromatography on silica gel to give 1-[(4,5-diphenyloxazol-2-yl)methylamino]-1,2,3,4-tetrahydro-5-methoxynaphthalene (0.50 g) MS (m/z): 411 (M+ +1) NMR (CDCl3, δ): 1.64-2.12 (4H, m), 2.38-2.92 (2H, m), 3.81 (3H, s), 3.94 (1H, m), 4.07 (2H, s), 6.73 (1H, d, J=7.9 Hz), 7.04 (1H, d, J=7.9 Hz), 7.15 (1H, dd, J=7.9, 7.9 Hz), 7.32-7.42 (6H, m), 7.58-7.69 (4H, m)

reactant | 1,2,3,4-tetrahydro-5-methoxy-1-naphthalenamine | 0.34 g | COC1=C2CCCC(C2=CC=C1)N | C11H15NO
reactant | (4,5-diphenyloxazol-2-yl)methyl bromide | 0.50 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CBr | C16H12BrNO
reactant | potassium carbonate | 0.60 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | 1-[(4,5-diphenyloxazol-2-yl)methylamino]-1,2,3,4-tetrahydro-5-methoxynaphthalene | 0.50 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CNC1CCCC2=C(C=CC=C12)OC | C27H26N2O2
